* Ideal two winding transformer model

.SUBCKT id_transformer2w prm_1 prm_2 sec_1 sec_2
+PARAMS: N1=1 N2=1 TS={IF(GLOBAL_TS > 1e-6, 1e-6, GLOBAL_TS*1e-3)}

B_prim prm_1 prm_2 I={I(Vaux)*N2/N1} smoothbsrc=0
+ rcconst = {TS}

B_sec midnode sec_2 V={V(prm_1,prm_2)*N1/N2} smoothbsrc=0
+ rcconst = {TS}

Vaux midnode sec_1 0

Rprim prm_2 0 1e5
Rsec sec_2 0 1e5

.ENDS id_transformer2w
